US07470705B2
Inject titanium(IV)isopropoxide (0.0870 ml, 0.299 mmol) to a mixture of 2-ethyl-7-methyl-4-oxo-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid isopropyl ester (0.055 g, 0.199 mmol), and 3,5-bis(trifluoromethyl)benzylamine (0.0500 g, 0.199 mmol), and then stir at room temperature for 6 h. Add methanol (2 ml) followed by NaBH4 (0.0380 g, 0.995 mmol) and stir at room temperature overnight. Treat the mixture with 1 N sodium hydroxide (2 ml) and ethyl acetate (5 ml), and then filter through a Celite® pad. Wash the filtered residue thoroughly with ethyl acetate (30 ml). Separate the organic layer, wash with brine (3×50 ml), dry over sodium sulfate, filter, and concentrate to provide crude 4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-7-methyl-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid isopropyl ester (0.0900 g) which was elaborated without further purification. MS (ES+): 504 (M+H).

reactant | 2-ethyl-7-methyl-4-oxo-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid isopropyl ester | 0.199 mmol, 0.055 g | C(C)(C)OC(=O)N1C(CC(C2=CC=C(N=C12)C)=O)CC | C15H20N2O3
reactant | 3,5-bis(trifluoromethyl)benzylamine | 0.199 mmol, 0.0500 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | NaBH4 | 0.995 mmol, 0.0380 g | [BH4-].[Na+]
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
catalyst | titanium(IV)isopropoxide | 0.299 mmol, 0.0870 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 ml | CO | CH4O
product | 4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-7-methyl-3,4-dihydro-2H-[1,8]naphthyridine-1-carboxylic acid isopropyl ester | 0.0900 g | C(C)(C)OC(=O)N1C(CC(C2=CC=C(N=C12)C)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C24H27F6N3O2
